US05929094
Step A: 7-Bromo-5-(5-trifluoromethyl-tetrazol-1-yl)-1-methyindole
To a solution of 7-bromo-5-(5-trifluoromethyl-tetrazol-1-yl)-1H-indole (115 mg, 0.346 mmol) in DMF (2 mL) was added sodium hydride (80% dispersion in mineral oil) (12 mg, 0.417 mmol). After gas evolution ceased, iodomethane (33 μL, 0.530 mmol) was added, and the mixture was stirred for 2 hours at room temperature. The mixture was diluted with diethyl ether, washed with water, 2N hydrochloric acid, saturated sodium hydrogencarbonate solution, saturated brine solution, dried (MgSO4), and evaporated. Silica gel chromatography eluting with 10% diethyl ether/hexane afforded pure title compound; yield 83 mg of a white solid.

reactant | 7-bromo-5-(5-trifluoromethyl-tetrazol-1-yl)-1H-indole | 0.346 mmol, 115 mg | BrC=1C=C(C=C2C=CNC12)N1N=NN=C1C(F)(F)F | C10H5BrF3N5
reactant | sodium hydride | 0.417 mmol, 12 mg | [H-].[Na+]
reactant | iodomethane | 0.530 mmol, 33 μL | IC | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-Bromo-5-(5-trifluoromethyl-tetrazol-1-yl)-1-methyindole | BrC=1C=C(C=C2C=CN(C12)C)N1N=NN=C1C(F)(F)F | C11H7BrF3N5
